US07812183B2
4-(4,5-Dihydro-oxazol-2-ylsulfanyl)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #68)
Following the procedure described in the Example 1, using (±) 2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 3H-oxazole-2-thione as starting materials, the title compound was prepared as a white solid.

reactant | (±) 2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 3H-oxazole-2-thione | O1C(NC=C1)=S | C3H3NOS
product | 4-(4,5-Dihydro-oxazol-2-ylsulfanyl)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | O1C(=NCC1)SC1C(C(OC2=CC=C(C=C12)C#N)(C)C)O | C15H16N2O3S
